US08084484B2
b) Ethyl 2-(4-(methoxymethoxy)phenyl)propanoate
Ethyl 2-(4-(methoxymethoxy)phenyl)acetate (1.75 g, 7.80 mmol) in DMF (50 mL) was slowly added sodium hydride (330 mg, 8.25 mmol) and iodomethane (1.13 g, 7.96 mmol) at 0° C. The reaction mixture was stirred for 1 hour at 0° C. The mixture was added water (50 mL) and extracted with EtOAc. The organic layer was dried with MgSO4. The organic layer was filtered and the filtrate was concentrated in vacuo. The residue was purified by column chromatography eluting with n-Hexane/EtOAc=15/1.

reactant | Ethyl 2-(4-(methoxymethoxy)phenyl)acetate | 7.80 mmol, 1.75 g | COCOC1=CC=C(C=C1)CC(=O)OCC | C12H16O4
reactant | sodium hydride | 8.25 mmol, 330 mg | [H-].[Na+]
reactant | iodomethane | 7.96 mmol, 1.13 g | IC | CH3I
reactant | water | 50 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(4-(methoxymethoxy)phenyl)propanoate | COCOC1=CC=C(C=C1)C(C(=O)OCC)C | C13H18O4
